US05792759
(E)-17β[3-(2-dimethylaminoethoxyimino)propyl]-androst-5-en-3β-ol (I-k)
The compound (I-k) (0.22 g) was obtained as a white solid, containing 10% of Z isomer from 0.30 g of 3-(3β-hydroxyandrost-5-en-17β-yl)propionaldehyde (prep. 4) and 2-dimethylaminopropoxyamine dihydrochloride using the same method as that described in Ex. 1.

reactant | 3-(3β-hydroxyandrost-5-en-17β-yl)propionaldehyde | 0.30 g | O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)CCC=O | C22H34O2
reactant | 2-dimethylaminopropoxyamine dihydrochloride | Cl.Cl.CN(C(CON)C)C
product | (E)-17β[3-(2-dimethylaminoethoxyimino)propyl]-androst-5-en-3β-ol | CN(CCO\N=C\CC[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O)C | C26H44N2O2
